US09376392B2
Preparation of (5-(trifluoromethyl)pyridin-3-yl)methanol:
To a solution of 5-(trifluoromethyl)nicotinic acid (1.0 g, 5.23 mmol) and triethylamine (0.802 mL, 5.75 mmol) in benzene was added ethyl chloroformate (0.548 mL, 5.75 mmol) and the reaction was stirred 1 hour at room temperature. The reaction was filtered to remove salts and concentrated to dryness. The residue was taken up in tetrahydrofuran and cooled to −78° C. Lithium aluminum hydride (2M in THF, 2.88 mL, 5.75 mmol) was added dropwise and aged 0.5 hour. Reaction was quenched with water and stirred with 0.5N NaOH for 1 hour. The product was extracted with ethyl acetate (2×), washed brine, dried over sodium sulfate and concentrated to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calc'd for C7H6F3NO: 178.04; found: 178.06.

reactant | 5-(trifluoromethyl)nicotinic acid | 5.23 mmol, 1.0 g | FC(C=1C=NC=C(C(=O)O)C1)(F)F | C7H4F3NO2
reactant | triethylamine | 5.75 mmol, 0.802 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.75 mmol, 0.548 mL | ClC(=O)OCC | C3H5ClO2
reactant | Lithium aluminum hydride | 5.75 mmol, 2M, 2.88 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (5-(trifluoromethyl)pyridin-3-yl)methanol | FC(C=1C=C(C=NC1)CO)(F)F | C7H6F3NO
